* C:\Users\lucas\Desktop\FIUBA\DCE\DCE\simulaciones\500ma\modelo_1_1\buck.asc
V1 Vin 0 20
M1 Vin PWM N001 N001 BSZ036NE2LS
V2 Tri 0 PULSE(0 12 0 4u 4u 1p 8u 3meg)
D1 0 N001 MBR735
L1 N001 Vo 500µ
C1 Vo 0 20µ
C2 Vin 0 100µ
R1 Vo 0 20
XU2 N003 N002 Vcc 0 errAMP level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
V3 Vcc 0 10
R2 N002 errAMP 100k
R3 0 N002 1k
XU1 Tri errAMP Vcc 0 PWM LM393A
R5 Vin PWM 220
XU4 N005 N004 Vcc 0 N003 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R4 N004 Vref 100k
R6 N003 N004 100k
R7 N005 Vo 100k
R8 0 N005 100k
V4 Vref 0 PULSE(5 3.3 1m 1n 2n 1 1 5)
.model D D
.lib C:\Users\lucas\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\lucas\Documents\LTspiceXVII\lib\cmp\standard.mos
.lib lm393.lib
.tran 2m
* Restador
* Amplificador de Error
* Comparador Real
.lib C:\Users\lucas\Downloads\LM393A.5_1
.lib UniversalOpAmp2.lib
.backanno
.end
